US07745438B2
(2R,3S,5R)-5-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester
Add acetic anhydride (0.084 ml, 0.89 mmol) to a solution of (2R,3S,5R)-5-[(1R,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester (400 mg, 0.85 mmol) in dry dichloromethane (9 mL). Add triethylamine (0.179 mL, 1.27 mmol), stir 1 hour at room temperature, concentrate and purify (silica gel cartridge chromatography, eluting with 1:1 hexanes:ethyl acetate) to give the title compound as a white solid (397 mg, 91%).

reactant | acetic anhydride | 0.89 mmol, 0.084 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (2R,3S,5R)-5-[(1R,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 0.85 mmol, 400 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)OCC(C)(C)C)C | C24H38F2N2O5
reactant | triethylamine | 1.27 mmol, 0.179 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | (2R,3S,5R)-5-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 397 mg, 91% | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O)OCC(C)(C)C)C | C26H40F2N2O6
